US09062056B2
(R)-3-(2-Chloro-6-methyl-3-nitro-pyridin-4-ylamino)-3-phenyl-propionic acid ethyl ester
To a solution of 2,4-dichloro-6-methyl-3-nitropyridine (900 mg, 4.35 mmol) in DMA (8 mL) were added (R)-3-amino-3-phenylpropionic acid ethyl ester HCl (799 mg, 3.48 mmol) and DIPEA (1.6 mL, 8.70 mmol). The reaction mixture was stirred at room temperature for 12 hours. The reaction was then diluted with ethyl acetate and washed with water twice. The organic phase was dried over Na2SO4 and concentrated to give yellow oil. The resulting oily residue was purified by silica gel preparative TLC using 99:1 CH2Cl2:MeOH as an eluent to afford 650 mg (51%) of the title compound as a light orange oil. LCMS, M++1, m/z: 364.15.

reactant | 2,4-dichloro-6-methyl-3-nitropyridine | 4.35 mmol, 900 mg | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C | C6H4Cl2N2O2
reactant | (R)-3-amino-3-phenylpropionic acid ethyl ester HCl | 3.48 mmol, 799 mg | Cl.C(C)OC(C[C@H](C1=CC=CC=C1)N)=O
reactant | DIPEA | 8.70 mmol, 1.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-(2-Chloro-6-methyl-3-nitro-pyridin-4-ylamino)-3-phenyl-propionic acid ethyl ester | 650 mg, 51% | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=C(C(=NC(=C1)C)Cl)[N+](=O)[O-])=O | C17H18ClN3O4
